US04003913
A solution of 1,5-dimethyl-1,3,4,5-tetrahydropyrano[4,3-b]indole-1-acetic acid ethyl ester (17.0 g), described in Example 916, in tetrahydrofuran (200 ml) is added dropwise to a suspension of lithium aluminium hydride (5.0 g) in tetrahydrofuran (150 ml). The mixture is heated at reflux for 2.5 hr. and then cooled and treated with a mixture of water-tetrahydrofuran (30 ml - 150 ml). The mixture is filtered through celite and the filtrate is evaporated. The residue is purified by chromatography on silica gel. Elution with chloroform gives 1,5-dimethyl-1,3,4,5-tetrahydropyrano[4,3-b]indole-1-ethanol.

reactant | 1,5-dimethyl-1,3,4,5-tetrahydropyrano[4,3-b]indole-1-acetic acid ethyl ester | 17.0 g | C(C)OC(CC1(OCCC=2N(C=3C=CC=CC3C21)C)C)=O | C17H21NO3
reactant | lithium aluminium hydride | 5.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water tetrahydrofuran | 30 ml - 150 ml | O.O1CCCC1
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1,5-dimethyl-1,3,4,5-tetrahydropyrano[4,3-b]indole-1-ethanol | CC1(OCCC=2N(C=3C=CC=CC3C21)C)CCO | C15H19NO2
